US08871782B2
2-(Ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-ol (3.00 g, 10.5 mmol) and triphenylphosphine (3.43 g, 13.1 mmol) were slurried in THF (105 mL) and cooled with an ice/water bath. tert-Butyl 4-hydroxypiperidine-1-carboxylate (2.64 g, 13.1 mmol) was added followed by the dropwise addition of diisopropyl azodicarboxylate (2.58 mL, 13.1 mmol). The water bath was removed and the mixture was stirred for 72 hours under nitrogen. The solvent was removed under reduced pressure and the residue was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 1-15% CMA in chloroform) to afford 5.17 g of tert-butyl 4-{[2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate as an off-white crystalline solid.

reactant | 2-(Ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-ol | 10.5 mmol, 3.00 g | C(C)OCC=1N(C2=C(C=NC=3C=C(C=CC23)O)N1)CCC | C16H19N3O2
reactant | triphenylphosphine | 13.1 mmol, 3.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-Butyl 4-hydroxypiperidine-1-carboxylate | 13.1 mmol, 2.64 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | diisopropyl azodicarboxylate | 13.1 mmol, 2.58 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 105 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-{[2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}piperidine-1-carboxylate | 5.17 g | C(C)OCC=1N(C2=C(C=NC=3C=C(C=CC23)OC2CCN(CC2)C(=O)OC(C)(C)C)N1)CCC | C26H36N4O4
